US05100577
A suspension of 21.06 g of 4-biphenylyl p-toluenesulphonate in 120 ml of dichloromethane was treated at -2° C. while stirring with 23.6 ml of titanium tetrachloride. The mixture was treated dropwise at the same temperature within 30 minutes with 9.63 ml of dichloromethyl methyl ether, stirred at room temperature for a further 1 hour and then poured on to ice. The aqueous phase was separated and extracted with dichloromethane. The combined organic phases were washed with saturated sodium hydrogen carbonate solution and then with water, dried over sodium sulphate and concentrated. Recrystallization of the crude product obtained from 50 ml of ethyl acetate gave 11.65 g of 4'-(p-toluenesulphonyloxy)biphenyl-4-carboxaldehyde.

reactant | 4-biphenylyl p-toluenesulphonate | 21.06 g | C1(=CC=C(C=C1)S(=O)(=O)OC1=CC=C(C=C1)C1=CC=CC=C1)C | C19H16O3S
reactant | dichloromethyl methyl ether | 9.63 ml | COC(Cl)Cl | C2H4Cl2O
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 23.6 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 4'-(p-toluenesulphonyloxy)biphenyl-4-carboxaldehyde | 11.65 g | C1(=CC=C(C=C1)S(=O)(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)C=O)C | C20H16O4S
